US07709481B2
25.0 g 4-bromo-3-chlorotoluene and 21.8 g copper (I) cyanide were dissolved in 200 ml dimethylformamide and stirred at 150° C. for three hours. The cooled reaction mixture was diluted by addition of 300 ml ethyl acetate and washed three times with portions of 150 ml saturated NH4Cl solution. The precipitates were filtered off and the filtrate dried over MgSO4 and then reduced in vacuo to obtain 17.3 g 2-Chloro-4-methyl-benzonitrile. This material was used without purification in the next step.

reactant | 4-bromo-3-chlorotoluene | 25.0 g | BrC1=C(C=C(C=C1)C)Cl | C7H6BrCl
reactant | copper (I) cyanide | 21.8 g | [Cu]C#N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-4-methyl-benzonitrile | 17.3 g | ClC1=C(C#N)C=CC(=C1)C | C8H6ClN
